Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
cough and shortness of breath
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Mr. ___ is a ___ with PMH of MVP who presents after an acute 
episode of hypotension and tachycardia while undergoing a 
colonoscopy in ___ just prior to arrival to ___ ED. 
Per the GI physician show preformed the procedure, anesthesia 
was used because he had a prior vasovagal incident after his 
first colonoscopy years ago; since then he has had one 
subsequent colonoscopy performed under anesthesia with no 
problems. He was undergoing a routine colonoscopy while in the 
left lateral decubitus position when there was difficulty with 
the adult sized scope, so a pediatric scope was requested. In 
the interim, his HR decreased to ___ and he received 0.2 
glycopyrronium bromide. The pediatric scope was placed and able 
to inserted to splenic flexure when yet again, his heart rate 
dropped so another 0.2 glycopyrronium bromide was administered. 
After removal of scope, he desatted and they suctioned his mouth 
with minimal amounts of secretion. EMS was called due to 
desaturation and hypotension. A NRB was applied with resolution 
of saturation.

In the ED, he received IVF due to hypotension and was started on 
ampicillin/sulbactam (Unasyn) and blood cultures were drawn. A 
CXR and CTA were performed (a D-dimer was elevated) which showed 
bilateral L>R opacities. He remained hypotensive despite fluids 
and required NC O2 and was transferred to ICU.

 
Past Medical History:
mitral valve proplapse
 
Social History:
___
Family History:
Father had h/o CAD and CABG with 4 stents, ultimately died of MI 
at 77. 
 
Physical Exam:
ADMISSION PHYSICAL
==========================
VITALS: HR 80, BP 104/41, RR 15, SpO2 95% RA 
GENERAL: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
NECK: supple, JVP not elevated, no LAD  
LUNGS: crackles throughout left lung and crackles half way up 
right lung, no wheezes
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
SKIN: dry, intact, with normal coloring  
NEURO: ___ strength in all extremities, normal mentation, CN 
grossly intact  

DISCHARGE PHYSICAL EXAM
==========================
VITALS: 131/92, HR 71, RR 16, 97% on RA
GENERAL: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
NECK: supple, JVP not elevated, no LAD  
LUNGS: crackles throughout left lung and crackles half way up 
right lung, no wheezes
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft,non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
SKIN: dry, intact, with normal coloring  
NEURO: ___ strength in all extremities, normal mentation, CN 
grossly intact  

  

 
Pertinent Results:
ADMISSION LABS
===========================
___ 09:30AM BLOOD WBC-12.8* RBC-5.61 Hgb-16.6 Hct-49.9 
MCV-89 MCH-29.6 MCHC-33.3 RDW-12.9 RDWSD-42.0 Plt ___
___ 09:30AM BLOOD Neuts-85.3* Lymphs-8.0* Monos-5.5 
Eos-0.4* Baso-0.3 Im ___ AbsNeut-10.94* AbsLymp-1.03* 
AbsMono-0.70 AbsEos-0.05 AbsBaso-0.04
___ 09:30AM BLOOD Plt ___
___ 09:30AM BLOOD ___ PTT-28.4 ___
___ 09:30AM BLOOD Glucose-102* UreaN-10 Creat-1.3* Na-140 
K-5.9* Cl-104 HCO3-22 AnGap-14
___ 09:30AM BLOOD CK(CPK)-367*
___ 09:30AM BLOOD cTropnT-0.05*
___ 09:30AM BLOOD Calcium-8.7 Phos-3.6 Mg-2.4
___ 12:29PM BLOOD D-Dimer-___*
___ 12:16PM BLOOD ___ pO2-22* pCO2-39 pH-7.32* 
calTCO2-21 Base XS--6
___ 09:43AM BLOOD Lactate-2.4* K-5.3*

MICROBIOLOGY
=========================
BCx: NGTD

IMAGING
==========================
CTA ___: No pulmonary embolism. Diffuse bilateral left 
greater than right regions of predominantly ground-glass with 
smaller component of consolidation. Findings may be due to 
pulmonary edema/ARDS, less likely infection. Hemorrhage would be 
possible. Appearance is not typical for aspiration. 

CXR PA&Lateral ___ significant interval change. Bilateral 
parenchymal opacities, left greater than right. No pleural 
effusion.

DISCHARGE LABS
============================
___ 02:01AM BLOOD WBC-11.6* RBC-4.70 Hgb-14.1 Hct-41.8 
MCV-89 MCH-30.0 MCHC-33.7 RDW-13.1 RDWSD-42.6 Plt ___
___ 02:01AM BLOOD Plt ___
___ 02:01AM BLOOD ___ PTT-29.5 ___
___ 02:01AM BLOOD Glucose-103* UreaN-11 Creat-1.0 Na-141 
K-4.2 Cl-108 HCO3-22 AnGap-11
___ 02:01AM BLOOD ALT-26 AST-33 LD(LDH)-217 AlkPhos-47 
TotBili-0.7
 
Brief Hospital Course:
Mr. ___ is a ___ year old man with no PMH who presents with 
hypoxemic respiratory distress in the setting of hypotension 
after a procedure requiring anesthesia.

#Hypoxemic Respiratory Distress
As he became acutely hypoxic after a procedure using anesthesia 
while in the left lateral decubitus, he most likely aspirated. 
This is supported by bilateral opacificaitons seen on chest Xray 
and CT of the chest with the left side worse than the right. His 
hypoxemia worsened after administration of IVF for his resulting 
hypotension. While in the ICU, no more IVF were administered and 
he improved with utilization of the incentive spirometer.

#Aspiration Pneumonitis
He has had low grade temperature elevations, so he was 
prophylactically started on ceftriaxone for aspiration 
pneumonia. His fevers resolved as did his respiratory distress 
so antibiotics were discontinued at the time of discharge. 
 
#Hypotension
He is very active and exercises multiple times a week, so his 
baseline BP is probably fairly low. He had prepared for a 
colonoscopy by taking magnesium citrate and has been NPO since 
midnight causing him to be intravascularly depleted. Due to his 
history of vasovagal attacks, his sudden precipitous drop was 
most likely due a vasovagal event in setting of intravascular 
depletion. With PO fluids and improvement of his respiratory 
status, his blood pressures improved during his hospital course 
in the MICU.

#Troponinemia
As he dropped his pressures and bradied to low ___, he most 
likely has demand ischemia. As the level was only 0.05, we did 
not trend as he had no chest pain, a reassuring physical exam, 
and an unremarkable EKG upon arrival. 
 
Medications on Admission:
None
 
Discharge Medications:
None
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute Respiratory Failure/Aspiration Pneumonitis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the Medical ICU at ___ for low blood 
pressures and difficulty breathing after you likely had an 
aspiration during your colonoscopy. We treated you with high 
amount of oxygen, also with antibiotics. Your blood pressure 
improved with fluids. 

We would encourage you to be cautious at home in the next few 
days, ensure you are taking plenty of fluids and resting until 
you fully recover.

Best,
Your ___ Care team 
 
Followup Instructions:
___